US05654472
A 200 ml reaction vessel was charged with 2 g of 2-(2,4-difluorophenyl)-1,3-di-n-pentanoyloxy-2-propanol, 100 mg of Lipase D made by Amano Pharmaceutical Co., Ltd. (derived from Rhizopus delemer, Enzyme No. 6) and 100 ml of 50 mM acetate buffer (pH 5). The resulting mixture was stirred at 30° C. to react for 18 hours. After the reaction liquid was extracted three times with 50 ml of ethyl acetate, the organic layers were combined and the combined organic layer was washed with saturated aqueous solution with sodium bicarbonate and with saturated aqueous solution with sodium chloride and further dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/2) to give 1.01 g of oily (R)-2-(2,4-difluorophenyl)-3-n-pentanoyloxy-1,2-propanediol. An optical purity thereof was determined in the same manner as Example 35. (Elution time: 13.7 minutes ((R)-form) and 11.1 minutes ((S)-form)).

reactant | 2-(2,4-difluorophenyl)-1,3-di-n-pentanoyloxy-2-propanol | 2 g | FC1=C(C=CC(=C1)F)C(COC(CCCC)=O)(COC(CCCC)=O)O | C19H26F2O5
solvent | acetate | 50 mM, 100 ml, pH 5 | C(C)(=O)[O-]
product | (R)-2-(2,4-difluorophenyl)-3-n-pentanoyloxy-1,2-propanediol | 1.01 g | FC1=C(C=CC(=C1)F)[C@@](CO)(COC(CCCC)=O)O | C14H18F2O4
